US07612114B2
6-{2-{Ethyl{4-[2-(2-fluoroethylamino)ethoxy]benzyl}amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-{2-[ethyl(4-hydroxybenzoyl)amino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (25 mg) and 2-chloro-N-(2-fluoroethyl)acetamide (13 mg) according to an analogous synthetic method to Example 567 and purified by LC-MS, the title compound (10 mg) was obtained.

reactant | pivalic acid 6-{2-[ethyl(4-hydroxybenzoyl)amino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 25 mg | C(C)N(C1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O)C(C1=CC=C(C=C1)O)=O | C31H35NO5
reactant | 2-chloro-N-(2-fluoroethyl)acetamide | 13 mg | ClCC(=O)NCCF | C4H7ClFNO
product | 6-{2-{Ethyl{4-[2-(2-fluoroethylamino)ethoxy]benzyl}amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 10 mg | C(C)N(C1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)O)CC1=CC=C(C=C1)OCCNCCF | C30H37FN2O3
